US08258308B2
A mixture of 2-chloronicotinic acid (1.6 g, 10.15 mmol) and 4-bromo-2,6-difluoroaniline (3.24 g, 15.58 mmol) in acetic acid (40 ml) was heated overnight at 130° C. under nitrogen atmosphere. The mixture was cooled to room temperature to give a precipitate. The mixture was filtered, and the solid was rinsed with acetic acid to afford 2-hydroxynicotinic acid (side-product). A second solid precipitate when the filtrate was partially concentrated to give another precipitate which corresponds to N-(4-bromo-2,6-difluorophenyl)acetamide (another side-product). Finally the filtrate was concentrated to dryness and 3.14 g of the desired compound was obtained as a solid, containing some acetamide but the mixture was used to perform the next synthetic step.

reactant | 2-chloronicotinic acid | 10.15 mmol, 1.6 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
reactant | 4-bromo-2,6-difluoroaniline | 15.58 mmol, 3.24 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-hydroxynicotinic acid | OC1=C(C(=O)O)C=CC=N1 | C6H5NO3
